US08937071B2
A suspension of 2-(4-bromo-2-fluorophenyl)acetic acid (300 mg, 1.287 mmol) in 1,4-dioxane (3 mL) and H2O (1.000 mL) was added to a solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (496 mg, 1.287 mmol) in 1,4-dioxane (3 mL) and H2O (1.000 mL). PdCl2(dppf) (94 mg, 0.129 mmol) and Cs2CO3 (1049 mg, 3.22 mmol) were added and the mixture was stirred at 110° C. for 30 min under microwave. The mixture was cooled to rt and then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=1:1, Rf=0.5) to yield a light yellow solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (320 mg, 0.778 mmol, 60.4% yield): 1H NMR (400 MHz, CD3OD) δ 7.93 (d, J=1.8 Hz, 1H), 7.18-7.50 (m, 6H), 6.78-7.00 (m, 2H), 5.28-5.54 (m, 2H), 4.04-4.21 (m, 2H), 3.74-3.84 (m, 3H), 3.30-3.38 (m, 2H), 1.32-1.52 (m, 3H); ES-LCMS m/z 412.0 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 1.287 mmol, 300 mg | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.287 mmol, 496 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | Cs2CO3 | 3.22 mmol, 1049 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1.000 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1.000 mL | O | H2O
catalyst | PdCl2(dppf) | 0.129 mmol, 94 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.778 mmol, 320 mg, 60.4% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
